US06677351B2
To a suspension of 2,5-dibromopyridine in toluene (12 ml/mmol) cooled to −78° C. was added n-butyllithium 2.5M in hexanes (1.05 eq) and the resulting mixture was stirred in the cold for 2.5 hours. Acetone (2 eq) was added and stirring was continued for 1.5 h. After quenching with saturated aqueous ammonium chloride solution, the mixture was warmed to room temperature and partitioned between ethyl acetate and water. The product from the organic phase was chromatographed on silica gel eluting with 20% ethyl acetate in hexane to afford the 5-Bromo-2-(1-hydroxy-1-methylethyl) pyridine compound as a syrup.

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | Acetone | 2 eq | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-2-(1-hydroxy-1-methylethyl) pyridine | BrC=1C=CC(=NC1)C(C)(C)O | C8H10BrNO
